US06326379B1
A. 4-[[(3-Chloro-4-methoxyphenyl)methyl]amino]-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid
4-Chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester and (3-chloro-4-methoxyphenyl)methylamine was used to afford the title compound (87%) as a white solid: mp 250 ° C.(decomposed).

reactant | 4-Chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=NC1)N(N=C2)CC)Cl | C11H12ClN3O2
reactant | (3-chloro-4-methoxyphenyl)methylamine | ClC=1C=C(C=CC1OC)CN | C8H10ClNO
product | 4-[[(3-Chloro-4-methoxyphenyl)methyl]amino]-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid | 87% | ClC=1C=C(C=CC1OC)CNC1=C2C(=NC=C1C(=O)O)N(N=C2)CC | C17H17ClN4O3
